US07345056B2
2,5-Dihydro-1H-pyrrole (8 g, 115.7 mmol) was dissolved in dioxane (150 mL). A solution of NaOH (6.9 g, 173.6 mmol) in H2O (150 mL) was added followed by di-tert-butyl dicarbonate (37.8 g, 173.6 mmol). The reaction mixture was stirred at room temperature for 12 h and subsequently concentrated to approximately 30 mL under vacuum. The resulting solution was extracted with methylene chloride (3×50 mL) and the combined organic phases were dried (Na2SO4), filtered and concentrated under vacuum to afford 18.7 g (96%) of 2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester as a yellow oil. Retention time (min)=1.872, method [1], MS(ESI) 114.1 (M−tBu+2H); 1H NMR (300 MHz, CDCl3) δ 5.81-5.69 (m, 2H), 4.19-4.05 (m, 4H), 1.45 (s, 9H).

reactant | 2,5-Dihydro-1H-pyrrole | 115.7 mmol, 8 g | N1CC=CC1 | C4H7N
reactant | NaOH | 173.6 mmol, 6.9 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 173.6 mmol, 37.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 150 mL | O | H2O
product | 2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester | 18.7 g, 96% | C(C)(C)(C)OC(=O)N1CC=CC1 | C9H15NO2
